US07504520B2
1-azido-3,3-dimethylbutan-2-one
A mixture of 1-bromopinacolone (0.5 mL, 3.7 mmol) and NaN3 (0.48 g, 7.38 mmol) in 50 mL acetone was stirred overnight at room temperature. It was then poured into brine and extracted with dichloromethane. The extracts were washed with brine, were dried over Na2SO4, filtered, and were evaporated to afford the title compound as a yellow oil (524 mg, 100%). 1H NMR (DMSO-d6) δ 4.39 (s, 2H), 1.10 (s, 9H); MS (DCI+) m/z 142 (M+H)+.

reactant | 1-bromopinacolone | 3.7 mmol, 0.5 mL | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | NaN3 | 7.38 mmol, 0.48 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | brine | [Cl-].[Na+].O
product | 1-azido-3,3-dimethylbutan-2-one | 524 mg, 100% | N(=[N+]=[N-])CC(C(C)(C)C)=O | C6H11N3O
